US04263318
Synthesis of 3-isopropylphenyl (methyl)(n-hexoxysulfinyl)carbamate
To a solution of 3-isopropylphenyl methylcarbamate (3.8 g, 0.02 mol) in 20 ml anhydrous tetrahydrofuran was added 2.0 g pyridine (0.025 mol) and 2.5 g thionyl chloride (0.021 mol). The mixture was stirred for 12 hours at room temperature. Pyridine (2 g, 0.025 mol) was added and followed by 2.5 g of 1-hexanol (0.025 mol) added dropwise. Workup and purification according to procedure described for other derivatives yielded 6.5 g of the desired product (95% yield).

reactant | 3-isopropylphenyl methylcarbamate | 0.02 mol, 3.8 g | CNC(OC1=CC(=CC=C1)C(C)C)=O | C11H15NO2
reactant | pyridine | 0.025 mol, 2.0 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.021 mol, 2.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | Pyridine | 0.025 mol, 2 g | N1=CC=CC=C1 | C5H5N
reactant | 1-hexanol | 0.025 mol, 2.5 g | C(CCCCC)O | C6H14O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-isopropylphenyl (methyl)(n-hexoxysulfinyl)carbamate | 6.5 g, 95% yield | CN(C(OC1=CC(=CC=C1)C(C)C)=O)S(=O)OCCCCCC | C17H27NO4S
